US06130324
Synthesis of 2'-O-methylinosine
Deamination of 2'-O-methyladenosine was accomplished by a modified procedure of Iwai et al., Anomeric 9-D-Glucopyranosyl-adenines and 9-D-Glucopyranosyl-hypozanthines, in Synthetic Procedures in Nucleic Acid Chemistry 135-142 (Zorbach & Tipson eds., Interscience Publishers, New York, N.Y., 1965). To a solution of 2'-O-methyladenosine (6.61 g, 23.5 mmol) dissolved in 4.4% aqueous acetic acid was added 13.1 g sodium nitrate (190 mmol). This reaction solution was stirred 24 hours in a foil covered vessel and thereafter evaporated to dryness in vacuo. The product was desalted with Amberlite XAD-4 resin and recrystallized in methanol. FABMS (glycerol) m/z 284 (MH+).

reactant | 2'-O-methyladenosine | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(N)=NC=NC12 | C11H15N5O4
reactant | 2'-O-methyladenosine | 23.5 mmol, 6.61 g | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(N)=NC=NC12 | C11H15N5O4
reactant | sodium nitrate | 190 mmol, 13.1 g | [N+](=O)([O-])[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2'-O-methylinosine | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(O)=NC=NC12 | C11H14N4O5
